US08877815B2
A solution of benzyl 2-(4-bromobenzyl)-3-(tert-butoxycarbonylamino)propanoate (44 mg, 0.098 mmol), phenylboronic acid (17.95 mg, 0.147 mmol), Pd(PPh3)4 (11.34 mg, 9.81 μmol) and 2M aqueous Na2CO3 (0.098 ml, 0.196 mmol) in toluene (1 ml) was allowed to stir under nitrogen at 95° C. for 18 hours. The reaction mixture was cooled to room temperature, and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography on silica gel (eluent: heptane/EtOAc=100:0 to 0:100) to give benzyl 3-(biphenyl-4-yl)-2-((tert-butoxycarbonylamino)methyl)propanoate (27.3 mg); Retention time=1.78 minutes (condition B); MS (m+1)=446.1.

reactant | benzyl 2-(4-bromobenzyl)-3-(tert-butoxycarbonylamino)propanoate | 0.098 mmol, 44 mg | BrC1=CC=C(CC(C(=O)OCC2=CC=CC=C2)CNC(=O)OC(C)(C)C)C=C1 | C22H26BrNO4
reactant | phenylboronic acid | 0.147 mmol, 17.95 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 0.196 mmol, 2M, 0.098 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 9.81 μmol, 11.34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | benzyl 3-(biphenyl-4-yl)-2-((tert-butoxycarbonylamino)methyl)propanoate | 27.3 mg | C1(=CC=C(C=C1)CC(C(=O)OCC1=CC=CC=C1)CNC(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H31NO4
